US04327034
39.6 parts of pyridine are added in the course of 15 minutes at 10° C., whilst stirring, to a mixture of 47.2 parts of methyl chloroformate and 78.8 parts of isopropylsulfamic acid chloride in 330 parts of methylene chloride. The reaction mixture is then stirred for 10 minutes at 22° C. Thereafter, the mixture is stirred for 8 minutes with 350 parts of water at 6° C. and pH 1. The organic phase is then separated off from the 2-phase mixture formed, and is filtered and subjected to fractional distillation. 72.1 parts (67% of theory) of N-methoxycarbonyl-N-isopropylsulfamic acid chloride, of boiling point 60°-64° C./0.13 mbar and nD25 =1.4540, are obtained.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | isopropylsulfamic acid chloride | C(C)(C)NS(=O)(=O)Cl | C3H8ClNO2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-methoxycarbonyl-N-isopropylsulfamic acid chloride | 67% | COC(=O)N(S(=O)(=O)Cl)C(C)C | C5H10ClNO4S
